US05962694
4-Chloro-3-(4-chloro-2-fluoro-5-methylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole
22 g (0.16 mol) of sulfuryl chloride were added dropwise to a solution of 43 g (0.15 mol) of 3-(4-chloro-2-fluoro-5-methylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole in 250 ml of tetrachloromethane. After the reaction solution had subsequently been stirred for 16 hours, 200 ml of saturated aqueous sodium hydrogen carbonate solution were added dropwise. The organic phase was thereupon separated off, washed using saturated sodium chloride solution, dried over magnesium sulfate, then filtered and subsequently concentrated. Yield: 46 g.

reactant | sulfuryl chloride | 0.16 mol, 22 g | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 3-(4-chloro-2-fluoro-5-methylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | 0.15 mol, 43 g | ClC1=CC(=C(C=C1C)C1=NN(C(=C1)OC(F)F)C)F | C12H10ClF3N2O
reactant | sodium hydrogen carbonate | 200 ml | C(O)([O-])=O.[Na+]
solvent | tetrachloromethane | 250 ml | ClC(Cl)(Cl)Cl | CCl4
product | 4-Chloro-3-(4-chloro-2-fluoro-5-methylphenyl)-5-difluoromethoxy-1-methyl-1H-pyrazole | ClC=1C(=NN(C1OC(F)F)C)C1=C(C=C(C(=C1)C)Cl)F | C12H9Cl2F3N2O
